US09371319B2
Preparation 113: 2-(3-Aminophenoxy)acetonitrile
2-Bromoacetonitrile (0.22 g, 1.83 mmol), 3-aminophenol (0.2 g, 1.83 mmol) and potassium carbonate (0.5 g, 3.67 mmol) were combined in dry DMF (10 ml). The reaction was stirred at room temperature for 24 hours. The reaction was diluted with water and ethyl acetate. The organic solution was washed with brine, dried over sodium sulphate and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography eluting with 50% ethyl acetate in dichloromethane to afford the title compound as a colourless oil (0.16 g, 58.9%). 1H-NMR (500 MHz, CDCl3): δ 3.76 (s, br, 2H), 4.69 (s, 2H), 6.29 (d, J=2.3 Hz, 1H), 6.37 (dd, J=2.3 Hz, 8.1 Hz, 1H), 6.41 (dd, J=2.3 Hz, 8.1 Hz, 1H), 7.1 (t, J=8.1 Hz, 1H).

reactant | 2-Bromoacetonitrile | 1.83 mmol, 0.22 g | BrCC#N | C2H2BrN
reactant | 3-aminophenol | 1.83 mmol, 0.2 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | potassium carbonate | 3.67 mmol, 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-Aminophenoxy)acetonitrile | 0.16 g, 58.9% | NC=1C=C(OCC#N)C=CC1 | C8H8N2O
